US05744475
Synthesis of 5-chloro-6-(1-(2-iminopyrrolidinyl)-methyl)uracil hydrochloride (Compound 29)
A solution of 5.0 g of 5-chloro-6-chloromethyl-uracil, 6.14 g of 2-iminopyrrolidine and 5.24 g of sodium ethoxide in N,N-dimethylformamide (50 ml) was stirred at room temperature for 14 hours. A crystallized matter was collected by filtration and then suspended in 30 ml of water. After the suspension was neutralized with acetic acid and then washed, an insoluble matter was collected by filtration and then dissolved in 60 ml of 1N hydrochloric acid. Activated carbon was added to the resultant solution, followed by filtration. The filtrate was concentrated under reduced pressure, and the residue so obtained was washed with ethanol and collected with filtration, whereby 2.68 g of the title compound were obtained (yield: 38%).

reactant | 5-chloro-6-chloromethyl-uracil | 5.0 g | ClC=1C(NC(NC1CCl)=O)=O | C5H4Cl2N2O2
reactant | 2-iminopyrrolidine | 6.14 g | N=C1NCCC1 | C4H8N2
reactant | sodium ethoxide | 5.24 g | [O-]CC.[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-chloro-6-(1-(2-iminopyrrolidinyl)-methyl)uracil hydrochloride | 2.68 g, yield: 38% | Cl.ClC=1C(NC(NC1CN1C(CCC1)=N)=O)=O | InChI=1S/C9H11ClN4O2.ClH/c10-7-5(12-9(16)13-8(7)15)4-14-3-1-2-6(14)11;/h11H,1-4H2,(H2,12,13,15,16);1H
